US05840732
ii) Synthesis of imidazo[1,2-a]pyridin-5-acetic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazine-7-yl)propyl]amide hydrochloride
To a methanol solution of 75 mg (0.15 mmol) of imidazo[1,2-a]pyridin-5-acetic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazine-7-yl)propyl]amide, 0.1 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring, after which the solvent was distilled off, to yield 75 mg (92.0%, light yellow oily substance) of the desired product.

reactant | imidazo[1,2-a]pyridin-5-acetic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazine-7-yl)propyl]amide | 0.15 mmol, 75 mg | O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCNC(CC2=CC=CC=1N2C=CN1)=O)=O)=O | C25H25N5O5S
reactant | hydrochloric acid ethyl acetate | 4N, 0.1 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | imidazo[1,2-a]pyridin-5-acetic [3-(1,1,6,8-tetraoxo-9-phenyl-2,3,4,8-tetrahydropyrimido[6,1-b][1,3]thiazine-7-yl)propyl]amide hydrochloride | Cl.O=S1(C=2N(CCC1)C(N(C(C2C2=CC=CC=C2)=O)CCCNC(CC2=CC=CC=1N2C=CN1)=O)=O)=O | InChI=1S/C25H25N5O5S.ClH/c31-21(17-19-9-4-10-20-26-12-15-28(19)20)27-11-5-13-29-23(32)22(18-7-2-1-3-8-18)24-30(25(29)33)14-6-16-36(24,34)35;/h1-4,7-10,12,15H,5-6,11,13-14,16-17H2,(H,27,31);1H
